US07067529B2
To a stirred solution of 6-hydroxy-7-methoxy-1-(3-ethoxy-benzyl)-isoquinoline-4-carbaldehyde (90 mg, 0.25 mmol) in N,N-dimethylformamide (2 mL) was added potassium carbonate (352 mg, 2.50 mmol) and 1,2-dibromoethane (0.129 μL, 1.25 mmol) at room temperature. The reaction mixture was heated 85° C. for 2 hrs. The solvent was evaporated and the residue was purified on a flash chromatography (Merck Silica gel 60, 70–230 mesh, 50% ethyl acetate/hexane) to afford product 1-(3-ethoxy-benzyl)-6-(2-bromo-ethoxy)-7-methoxy-isoquinoline-4-carbaldehyde as a colorless oil. The crude product was used without further purification. To a stirred solution of 1-(3-ethoxy-benzyl)-6-(2-bromo-ethoxy)-7-methoxy-isoquinoline-4-carbaldehyde in acetic acid (2 mL) was added selenium dioxide (278 mg, 2.50 mmol). The reaction mixture was heated at 120° C. for 1 hr. The solvent was evaporated and the residue was diluted with dichloromethane (30 mL). The organic layer was washed with saturated aqueous sodium bicarbonate solution (20 mL), saturated aqueous sodium chloride solution (20 μL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford a crude oil. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 40% ethyl acetate/hexane) afforded 1-(3-ethoxy-benzoyl)-6-(2-bromo-ethoxy)-7-methoxy-isoquinoline-4-carbaldehyde as a major product (80 mg, 100% yield).

reactant | 6-hydroxy-7-methoxy-1-(3-ethoxy-benzyl)-isoquinoline-4-carbaldehyde | 0.25 mmol, 90 mg | OC=1C=C2C(=CN=C(C2=CC1OC)CC1=CC(=CC=C1)OCC)C=O | C20H19NO4
reactant | potassium carbonate | 2.50 mmol, 352 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 1.25 mmol, 0.129 μL | BrCCBr | C2H4Br2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-(3-ethoxy-benzyl)-6-(2-bromo-ethoxy)-7-methoxy-isoquinoline-4-carbaldehyde | C(C)OC=1C=C(CC2=NC=C(C3=CC(=C(C=C23)OC)OCCBr)C=O)C=CC1 | C22H22BrNO4
